US04535183
2.5 ml of a solution of iodine (6.64 g, 0.026 M) in anhydrous ether (80 ml) was added to a stirred mixture of magnesium metal (2.53 g, 0.105 g. atom) and ether (12.5 ml). When the reaction had commenced the remainder of the iodine solution was added dropwise at such a rate as to cause gentle refluxing. After the addition was complete the reaction mixture was heated to reflux until a colourless solution was obtained (15 mins). The cooled reaction mixture was filtered and the unreacted magnesium metal was washed with ether. The colourless solution of magnesium iodide thus obtained was added dropwise to a stirred solution of ethyl 5-(2-formyl-3-methoxy-4-n-propoxyphenoxy)pentanoate (5.95 g, 0.0176 M) in anhydrous tetrahydrofuran (50 ml). The mixture was brought to reflux with stirring for 5.5 hr. The cooled reaction mixture was poured into 2 N hydrochloric acid (75 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined extracts were washed with water, dried (sodium sulphate) and evaporated. The residue was dissolved in 95% ethanol (50 ml). 2 N sodium hydroxide solution (50 ml) added and the mixture stirred at room temperature (4 hr). After evaporation of the ethanol the residue was diluted with water, washed with ether and acidified with concentrated hydrochloric acid. The oily product was extracted with ether, the combined extracts washed with water and extracted with 5% sodium bicarbonate solution. The combined extracts were acidified with concentrated hydrochloric acid to pH3 with ice cooling, and the gummy solid produced was filtered off and washed with water. This was chromatographed on kieselgel G (200 g) eluting with chloroform-methanol (9:1), the combined fractions evaporated and the residue recrystallised from benzene-petrol to give 5-(2-formyl-3-hydroxy-4-n-propoxyphenoxy)pentanoic acid, m.p. 78°-79° C. (Found: C, 60.65; H, 6.96, C15H20O6 requires C, 60.80; H, 6.80%).

reactant | ethyl 5-(2-formyl-3-methoxy-4-n-propoxyphenoxy)pentanoate | 0.0176 M, 5.95 g | C(=O)C1=C(OCCCCC(=O)OCC)C=CC(=C1OC)OCCC | C18H26O6
reactant | hydrochloric acid | 2 N, 75 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(2-formyl-3-hydroxy-4-n-propoxyphenoxy)pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC(=C1O)OCCC | C15H20O6
